US07452893B2
To a solution of tert-butyl 4-(2-{[tert-butyl(dimethyl)silyl]oxy}-2-phenylethoxy)-3-fluorocyclohexylcarbamate (5.83 g, 12.5 mmol) in THF (100 mL) was added tetrabutylammonium fluoride (25 mL, 25 mmol, 1M in THF) and the reaction mixture was stirred at room temperature for 8 h. The mixture was extracted with ethyl acetate (4×), and the combined organics washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated. Purification by flash column chromatography (hexane: ethyl acetate 80:20 then 60:40) gave tert-Butyl 3-fluoro-4-(2-hydroxy-2-phenylethoxy)cyclohexylcarbamate (4.33 g) as a white solid.

reactant | tert-butyl 4-(2-{[tert-butyl(dimethyl)silyl]oxy}-2-phenylethoxy)-3-fluorocyclohexylcarbamate | 12.5 mmol, 5.83 g | [Si](C)(C)(C(C)(C)C)OC(COC1C(CC(CC1)NC(OC(C)(C)C)=O)F)C1=CC=CC=C1 | C25H42FNO4Si
reactant | tetrabutylammonium fluoride | 25 mmol, 1M, 25 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-fluoro-4-(2-hydroxy-2-phenylethoxy)cyclohexylcarbamate | 4.33 g | FC1CC(CCC1OCC(C1=CC=CC=C1)O)NC(OC(C)(C)C)=O | C19H28FNO4
